US08614206B2
A solution of benzyl 4-(tert-butoxycarbonylamino)-5-fluoroazepane-1-carboxylate (0.55 g, 1.50 mmol) in MeOH (75 mL) was passed through the H-Cube® (full H2, 50° C., flow rate: 1 mL/min, 30 mm 10% Pd/C cartridge). The solvent was removed under reduced pressure to afford tert-butyl 5-fluoroazepan-4-ylcarbamate as a mixture of syn and anti isomers as a colourless oil (317 mg).

reactant | benzyl 4-(tert-butoxycarbonylamino)-5-fluoroazepane-1-carboxylate | 1.50 mmol, 0.55 g | C(C)(C)(C)OC(=O)NC1CCN(CCC1F)C(=O)OCC1=CC=CC=C1 | C19H27FN2O4
solvent | MeOH | 75 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl 5-fluoroazepan-4-ylcarbamate | FC1C(CCNCC1)NC(OC(C)(C)C)=O | C11H21FN2O2
